US06331538B1
4-Chloro-2-cyclopropylamino-5-fluoro-benzoic Acid
A solution of 4-chloro-2-cyclopropylamino-5-fluoro-benzoic acid ethyl ester (Example B-3, 4.10 g, 15.9 mmol) in THF (100 mL) was reacted with an aqueous solution of 1.0 N LiOH (45 mL, 45 mmol) and methanol (40 mL) and allowed to stir overnight. The mixture was then concentrated to one-third volume and acidified with 1.0 N HCl. The mixture was extracted with ethyl acetate. the organic layers combined, dried with sodium sulfate, and concentrated to provide 3.0 g of the title compound as an oil.

reactant | 4-chloro-2-cyclopropylamino-5-fluoro-benzoic acid ethyl ester | 15.9 mmol, 4.10 g | C(C)OC(C1=C(C=C(C(=C1)F)Cl)NC1CC1)=O | C12H13ClFNO2
reactant | LiOH | 45 mmol, 1.0 N, 45 mL | [Li+].[OH-]
reactant | methanol | 40 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-cyclopropylamino-5-fluoro-benzoic Acid | 3.0 g | ClC1=CC(=C(C(=O)O)C=C1F)NC1CC1 | C10H9ClFNO2
